.subckt FEMM-2D-AS-HMSC-HMTW_three_winding_transformer_from_femm_t_model 1 2 3 4 5 6
.params Rpri=0.02355506349963211 Rsec1=0.2331684652134409 Rsec2=0.2973401249450359 Lleak1=3.124638841933917e-007 Lleak2=1.793032964955902e-006 Lleak3=2.134951148403178e-006 Lm=1.601821897729025e-005 n1=1.98803683332308 n2=2.001855298362751
R1 15 1 {Rpri} 
L1 15 7 {Lleak1} 
R2 11 3 {Rsec1} 
L2 11 9 {Lleak2} 
Gp1 2 7 value={n1*i(Es1)} 
Es1 9 4 value={n1*v(7,2)} 
L3 7 2 {Lm} 
R3 14 5 {Rsec2} 
L4 14 12 {Lleak3} 
Es2 12 6 value={n2*v(7,2)} 
Gp2 2 7 value={n2*i(Es2)} 
.end FEMM-2D-AS-HMSC-HMTW_three_winding_transformer_from_femm_t_model 
