.subckt FEMM-2D-AS-IMSC-HMTW_three_winding_transformer_from_femm_t_model 1 2 3 4 5 6
.params Rpri=0.01398140099715892 Rsec1=0.1499465479104694 Rsec2=0.211867794416009 Lleak1=2.764631297141308e-007 Lleak2=1.990397868419641e-006 Lleak3=2.325763240585841e-006 Lm=1.606751852712911e-005 n1=1.98498493837477 n2=2.001006942027622
R1 15 1 {Rpri} 
L1 15 7 {Lleak1} 
R2 11 3 {Rsec1} 
L2 11 9 {Lleak2} 
Gp1 2 7 value={n1*i(Es1)} 
Es1 9 4 value={n1*v(7,2)} 
L3 7 2 {Lm} 
R3 14 5 {Rsec2} 
L4 14 12 {Lleak3} 
Es2 12 6 value={n2*v(7,2)} 
Gp2 2 7 value={n2*i(Es2)} 
.end FEMM-2D-AS-IMSC-HMTW_three_winding_transformer_from_femm_t_model 
