.subckt FEMM-2D-PL-HMSC-HMTW_three_winding_transformer_from_femm_t_model 1 2 3 4 5 6
.params Rpri=0.02899792924232117 Rsec1=0.2610573994812284 Rsec2=0.380244498839157 Lleak1=4.066051081919703e-007 Lleak2=1.628664003705585e-006 Lleak3=2.40413612021164e-006 Lm=1.229667600185634e-005 n1=1.998669886488876 n2=1.999906519667969
R1 15 1 {Rpri} 
L1 15 7 {Lleak1} 
R2 11 3 {Rsec1} 
L2 11 9 {Lleak2} 
Gp1 2 7 value={n1*i(Es1)} 
Es1 9 4 value={n1*v(7,2)} 
L3 7 2 {Lm} 
R3 14 5 {Rsec2} 
L4 14 12 {Lleak3} 
Es2 12 6 value={n2*v(7,2)} 
Gp2 2 7 value={n2*i(Es2)} 
.end FEMM-2D-PL-HMSC-HMTW_three_winding_transformer_from_femm_t_model 
