.subckt three_winding_transformer_from_femm_t_model 1 2 3 4 5 6
.params Rpri=0.002745488251396039 Rsec1=0.02157764636863179 Rsec2=0.02157764636863179 Lleak1=-4.595169505350238e-007 Lleak2=1.326055021897564e-005 Lleak3=1.232089769034623e-007 Lm=1.026248645768319e-005 n1=3.65671109117583 n2=0.1657896925649977
R1 15 1 {Rpri} 
L1 15 7 {Lleak1} 
R2 11 3 {Rsec1} 
L2 11 9 {Lleak2} 
Gp1 2 7 value={n1*i(Es1)} 
Es1 9 4 value={n1*v(7,2)} 
L3 7 2 {Lm} 
R3 14 5 {Rsec2} 
L4 14 12 {Lleak3} 
Es2 12 6 value={n2*v(7,2)} 
Gp2 2 7 value={n2*i(Es2)} 
.end three_winding_transformer_from_femm_t_model 
