.subckt transformer_from_femm_standard_SPICE 1 2 3 4 
.params Rpri=0.003655391180088426 Rsec=0.02248173351737796 L1=9.795811207393466e-006 L2=0.0001503775589943333 k=0.9770453487521892
L1 5 2 {L1}
L2 6 4 {L2}
R1 5 1 {Rpri}
R2 3 6 {Rsec}
K1 L1 L2 {k}
.end transformer_from_femm_standard_SPICE 
