.subckt transformer_from_femm_t_model 1 2 3 4 
.params Rpri=0.003655391180088426 Rsec=0.02248173351737796 Lleak1=4.209154159179405e-007 Lleak2=3.792263307248448e-007 Lm=9.374895791475526e-006 n=4
R1 9 1 {Rpri} 
L1 9 5 {Lleak1} 
R2 10 3 {Rsec} 
L2 10 7 {Lleak2}
Gp 2 5 value={n*i(Es)}
Es 7 4 value={n*V(5,2)}
L3 5 2 {Lm}
.end transformer_from_femm_t_model 
